US07138425B2
b) 2-[3-(Naphth[2,3-d]oxazol-2-yl)phenyl]-2,3-dihydro-1,3-dioxo-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(3-aminophenyl)naphth[2,3-d]oxazole (36 mg, 0.14 mmol) and 1,2,4-benzenetricarboxylic anhydride (30 mg, 0.16 mmol) the title compound was obtained, 30 mg (44%). 1H NMR (DMSO) δ 8.45(m, 2H), 8.38(d, 3H), 8.30(s, 1H), 8.12(m, 3H), 7.82(m, 2H), 7.55(m, 2H). MS 433 m/z (M−H)−.

reactant | 2-(3-aminophenyl)naphth[2,3-d]oxazole | 0.14 mmol, 36 mg | NC=1C=C(C=CC1)C=1OC2=C(N1)C=C1C=CC=CC1=C2 | C17H12N2O
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.16 mmol, 30 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[3-(Naphth[2,3-d]oxazol-2-yl)phenyl]-2,3-dihydro-1,3-dioxo-1H-isoindole-5-carboxylic acid | O1C(=NC2=C1C=C1C=CC=CC1=C2)C=2C=C(C=CC2)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C26H14N2O5
